US07087601B2
A solution of methyl 4-(cyanomethyl)-3-ethoxybenzoate (18 g, 88 mmol) in 150 mL of MeOH:THF:H2O (3:3:1) was treated with lithium hydroxide monohydrate (11 g, 263 mmol) at 22° C. for overnight. Then 10% aqueous HCl (100 mL) was added to quench the reaction, the mixture was extracted with EtOAc (3×200 mL), the combined organic extracts were washed with brine (100 mL) and dried (MgSO4), filtered and concentrated in vacuo to afford 4-(cyanomethyl)-3-methoxybenzoic acid as a white solid. MS (ESI) 192 (M+H)+.

reactant | methyl 4-(cyanomethyl)-3-ethoxybenzoate | 88 mmol, 18 g | C(#N)CC1=C(C=C(C(=O)OC)C=C1)OCC | C12H13NO3
reactant | lithium hydroxide monohydrate | 263 mmol, 11 g | O.[OH-].[Li+]
reactant | HCl | 100 mL | Cl | ClH
solvent | MeOH THF H2O | 150 mL | CO.C1CCOC1.O
product | 4-(cyanomethyl)-3-methoxybenzoic acid | C(#N)CC1=C(C=C(C(=O)O)C=C1)OC | C10H9NO3
